US05480899
Synthesis of (R)-(-)-4-(oxiranylmethoxy)-benzaldehyde
In 800 ml of anhydrous methyl ethyl ketone was dissolved 23.54 g of 4-hydroxybenzaldehyde and 50 g of (R)-(-)-glycidyl m-nitrobenzenesulfonate. To the solution was added 34.6 g of anhydrous potassium carbonate, and the mixture was refluxed with heating for 2.5 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was extracted with ethyl acetate. The extract was washed with water, dried with magnesium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and purified with chloroform to give 30.6 g of the title compound (yield 89%).

reactant | 4-hydroxybenzaldehyde | 23.54 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | (R)-(-)-glycidyl m-nitrobenzenesulfonate | 50 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1CO1 | C9H9NO6S
reactant | potassium carbonate | 34.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 800 ml | C(C)C(=O)C | C4H8O
product | (R)-(-)-4-(oxiranylmethoxy)-benzaldehyde | 30.6 g, yield 89% | O1[C@H](C1)COC1=CC=C(C=O)C=C1 | C10H10O3
